US07754737B2
Step 3. (S)-1-(3-chlorophenyl)-5,5-difluoro-1-((R)-piperidin-3-yl)hexan-1-ol
N-Boc-(S)-1-(3-chlorophenyl)-5,5-difluoro-1-((R)-piperidin-3-yl)hexan-1-ol (70 mg, 0.16 mmol) was dissolved in acetonitrile (16 mL) and 2M aq HCl (16 mL) and allowed to stir at rt overnight. The solvent was removed under high vacuum. The crude material was redissolved in CH2Cl2 and washed with satd NaHCO3 2×. The aqueous layer was extracted with CH2Cl2 3×. The combined organic layers were washed with brine and dried over sodium sulfate. After removing solvent under vacuum (S)-1-(3-chlorophenyl)-5,5-difluoro-1-((R)-piperidin-3-yl)hexan-1-ol was isolated as an oil (28 mg) MS m/z 332 (M+H+).

reactant | N-Boc-(S)-1-(3-chlorophenyl)-5,5-difluoro-1-((R)-piperidin-3-yl)hexan-1-ol | 0.16 mmol, 70 mg | C(=O)(OC(C)(C)C)N1C[C@@H](CCC1)[C@](CCCC(C)(F)F)(O)C1=CC(=CC=C1)Cl | C22H32ClF2NO3
reactant | HCl | 2M, 16 mL | Cl | ClH
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | (S)-1-(3-chlorophenyl)-5,5-difluoro-1-((R)-piperidin-3-yl)hexan-1-ol | 28 mg | ClC=1C=C(C=CC1)[C@@](CCCC(C)(F)F)(O)[C@H]1CNCCC1 | C17H24ClF2NO
